US04340598
In 30 ml of pyridine were dissolved 3.4 g of 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-formylimidazole and 1.39 g of hydroxylamine hydrochloride, and 6 ml of acetic anhydride was added dropwise to the solution. After the addition was completed, the reaction solution was stirred at 100° C. for 3 hours, and evaporated to dryness under reduced pressure. The residue was dissolved in 100 ml of chloroform, washed with two 300 ml portions of water, and evaporated to dryness under reduced pressure. The residue was recrystallized twice from 30 ml of ethanol, yielding 2.1 g of 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-cyanoimidazole as slightly brown needles, m.p. 125°-127° C.

reactant | 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-formylimidazole | 3.4 g | C(C1=CC=CC=C1)N1C(=NC(=C1C=O)Cl)C1=CC=C(C=C1)N(C)C | C19H18ClN3O
reactant | hydroxylamine hydrochloride | 1.39 g | Cl.NO
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-4-chloro-2-(4-dimethylaminophenyl)-5-cyanoimidazole | 2.1 g | C(C1=CC=CC=C1)N1C(=NC(=C1C#N)Cl)C1=CC=C(C=C1)N(C)C | C19H17ClN4
